US04695647
(ii) Preparation of Ethyl-7-(1'-benzyloxycarbonyl-5'-oxocyclopentyl)-heptanoate
To a 100 ml. RB flask was added 13 g. to Ethyl-7-bromoheptanoate and 12.8 g. of 2-benzyloxycarbonylcyclopentanone. The reactants were dissolved in 50 ml. of anhydrous acetone and refluxed over 17 g. of anhydrous potassium carbonate under nitrogen for 20 hours. The reaction mixture was then cooled and filtered and the filtrate evaporated to afford 22.1 g. of crude oil, which was not further purified at this stage.

reactant | Ethyl-7-bromoheptanoate | C(C)OC(CCCCCCBr)=O | C9H17BrO2
reactant | 2-benzyloxycarbonylcyclopentanone | C(C1=CC=CC=C1)OC(=O)C1C(CCC1)=O | C13H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl-7-(1'-benzyloxycarbonyl-5'-oxocyclopentyl)-heptanoate | C(C)OC(CCCCCCC1(CCCC1=O)C(=O)OCC1=CC=CC=C1)=O | C22H30O5
